US05610141
a) 2,3-Bis(benzylamino)succinic acid
To a mechanically stirred solution of meso-2,3-dibromosuccinic acid (27.6 g, 0.100 mol) in alcohol (200 ml) was slowly added benzylamine (85 g, 0.80 mol) at ambient temperature. After complete addition the mixture was refluxed overnight. A heavy precipitate of salts appeared. The mixture was cooled to 50° C. and concentrated hydrochloric acid was added until pH was 4-5. The precipitate was filtered off, washed several times with water and alcohol and dried.

reactant | meso-2,3-dibromosuccinic acid | 0.100 mol, 27.6 g | [C@@H]([C@@H](C(=O)O)Br)(C(=O)O)Br | C4H4Br2O4
reactant | benzylamine | 0.80 mol, 85 g | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | Cl | ClH
product | 2,3-Bis(benzylamino)succinic acid | C(C1=CC=CC=C1)NC(C(=O)O)C(C(=O)O)NCC1=CC=CC=C1 | C18H20N2O4
